US08486966B2
2-Chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-nitropyrimidin-4-amine
A mixture of 2,4-dichloro-5-nitropyrimidine (2 g) and 5-cyclopropyl-1H-pyrazol-3-amine (2 g) in acetonitrile (20 mL) with diisopropylethylamine (2 mL) was stirred at room temperature for 24 hours, The resulting mixture was concentrated, and the resulting residue was separated by silica gel column (Hexane/Ethyl acetate) to afford 2.1 g desired product. MS (electrospray): 281 (M+1) for C10H9ClN6O2.

reactant | 2,4-dichloro-5-nitropyrimidine | 2 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 2 g | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-Chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-nitropyrimidin-4-amine | 2.1 g | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)[N+](=O)[O-] | C10H9ClN6O2
